US06541504B1
3-(6Ethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one
A mixture of 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one (50.0 mg, 0.189 mmol), acetaldehyde (10.0 mg, 0.227 mmol), and sodium triacetoxyborohydride (52.1 mg, 0.246 mmol) was stirred at room temperature for 2.5 h. The reaction was then partitioned between EtOAc and H2O. The organic phase was washed with H2O, brine and then dried with Na2SO4. The solvent was removed in vacuo and the residue recrystallized from EtOAc/hexanes to afford the title compound (21.6 mg, 39%) as a yellow solid.

reactant | 3-(6-Amino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 0.189 mmol, 50.0 mg | NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C16H12N2O2
reactant | acetaldehyde | 0.227 mmol, 10.0 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.246 mmol, 52.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3-(6Ethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 21.6 mg, 39% | C(C)NC1=CC=C2COC(C2=C1)=C1C(NC2=CC=CC=C12)=O | C18H16N2O2
